US07491716B2
N-[7-(Cyanomethyl)benzofur-4-yl]acetamide
Add (4-Nitrobenzofur-7-yl)acetonitrile (600 mg, 2.96 mmol), acetic anhydride (600 mg, 5.88 mmol), and 5% palladium on carbon (300 mg) to tetrahydrofuran (25 mL). Stir under 1 atmosphere of hydrogen for 45 minutes. Dilute with ethyl acetate, filter through a pad of Celite®, concentrate under reduced pressure, and chromatograph on flash silica using 75% ethyl acetate, 25% hexane to obtain the desired compound as an off-white solid (0.43 gm, 67%).

reactant | (4-Nitrobenzofur-7-yl)acetonitrile | 2.96 mmol, 600 mg | [N+](=O)([O-])C1=CC=C(C2=C1C=CO2)CC#N | C10H6N2O3
reactant | acetic anhydride | 5.88 mmol, 600 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 300 mg | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[7-(Cyanomethyl)benzofur-4-yl]acetamide | 0.43 gm, 67% | C(#N)CC1=CC=C(C=2C=COC21)NC(C)=O | C12H10N2O2
